US08871796B2
Acetyl chloride (0.023 ml, 0.323 mmol, 0.1 equiv) was added to a stirring solution of 4-{[3-(3-bromophenyl)-1-ethyl-1H-pyrazol-5-yl]oxy}benzaldehyde (1.2 g, 3.23 mmol, 1.0 equiv) in methanol (7 mL). 4A molecular sieves were added and the mixture was stirred at 50° C. for 3 hours. The sieves were filtered and the filtrate was concentrated. The crude product was purified by flash chromatography on silica gel (0-70% ethyl acetate:hexanes) to give 3-(3-bromophenyl)-5-[4-(dimethoxymethyl)phenoxy]-1-ethyl-1H-pyrazole (1.2 g, 2.88 mmol, 89% yield). Calc'd (M+1)+419.0. Found: 419.19 (minor peak), 373.18 (major peak). Major peak is aldehyde seen because of deprotection occurring on LCMS.

reactant | Acetyl chloride | 0.323 mmol, 0.023 ml, 0.1 equiv | C(C)(=O)Cl | C2H3ClO
reactant | 4-{[3-(3-bromophenyl)-1-ethyl-1H-pyrazol-5-yl]oxy}benzaldehyde | 3.23 mmol, 1.2 g, 1.0 equiv | BrC=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=O)C=C1)CC | C18H15BrN2O2
reactant | methanol | 7 mL | CO | CH4O
product | 3-(3-bromophenyl)-5-[4-(dimethoxymethyl)phenoxy]-1-ethyl-1H-pyrazole | 2.88 mmol, 1.2 g, 89% yield | BrC=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=C1)C(OC)OC)CC | C20H21BrN2O3
